US04925834
2.7 g of 15-alpha-ethyl-19-hydroxy-4-androstene-3,17-dione in 25 ml of tetrahydrofuran is instilled in a suspension of 28.6 of methyl triphenylphosphonium bromide in 200 ml of tetrahydrofuran, which was stirred with 200 ml of butyllithium solution (1.6 m in ether) for 1.5 hours at 20° C., and stirred for one hour at 20° C. Then it is mixed with water, extracted three times with ethyl acetate, washed neutral, dried on sodium sulfate and is freed from the solvent in a vacuum. After chromatographic purification on silica gel with hexane/ethyl acetate, 1.95 g of pure 15-alpha-ethyl-3-methylene-19-hydroxy-4-androsten-17-one is obtained as foam.

reactant | 15-alpha-ethyl-19-hydroxy-4-androstene-3,17-dione | 2.7 g | C(C)C1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=CC(CC[C@]3(CO)[C@H]1CC2)=O)=O | C21H30O3
reactant | butyllithium | 200 ml | C(CCC)[Li]
reactant | water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | methyl triphenylphosphonium bromide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 15-alpha-ethyl-3-methylene-19-hydroxy-4-androsten-17-one | 1.95 g | C(C)C1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=CC(CC[C@]3(CO)[C@H]1CC2)=C)=O | C22H32O2
